US06743922B2
1-Bromo-2-(phenylmethoxy)naphthalene
To a suspension of 1-bromo-2-naphthol (15.0 g, 67.3 mmol) and K2CO3 (18.6 g, 135 mmol) in DMF (100 mL) was added benzyl bromide (9.6 mL, 81 mmol) and the mixture was stirred at 60° C. for 5 h. After cooling to room temperature, the solvent was evaporated in vacuo and the residue, dissolved in a small amount of CH2Cl2, passed through a thin pad of flash silica. Fractions containing the product were evaporated in vacuo to give an off-white solid. Crystallisation from CH2Cl2/petrol gave the title compound, 1-bromo-2-(phenylmethoxy)naphthalene, as a white crystalline solid (16.0 g, 76%). The mother liquor was concentrated and purified by flash chromatography (petrol/CH2Cl2, 2/1) to give an additional amount of the product (3.7 g, 17%; total yield: 93%). Rf =0.50 (petrol/CH2Cl2, 2/1); mp 104-106° C. (CH2Cl2/petrol); 1H NMR (250 MHz, CDCl3) δ5.35 (s, 2H), 7.32 (d, J=9.0 Hz, 1H), 7.38-7.50 (m, 4H), 7.57-7.66 (m, 2H), 7.79-7.86 (m, 3H), and 8.31 (d, J=8.5 Hz, 1H); 13C NMR (63 MHz, CDCl3) δ71.81, 110.0, 115.6, 124.6, 126.3, 127.2, 127.8, 128.1 (2C), 128.7, 128.9, 130.1, 133.2, 136.7 and 153.0; IR (CHCl3) νmax 1626, 1596, 1502, 1350, and 1268 cm−1; MS (EI+) m/z (rel intensity) 314/312 (25%, M+) and 91 (100); HRMS calcd for C17H13BrO (M+) 312.0150, found 312.0150. Anal. Calcd for C17H13BrO: C, 65.19; H, 4.18; Br, 25.51. Found: C, 64.94; H, 4.12; Br, 25.71.

reactant | 1-bromo-2-naphthol | 67.3 mmol, 15.0 g | BrC1=C(C=CC2=CC=CC=C12)O | C10H7BrO
reactant | K2CO3 | 135 mmol, 18.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 81 mmol, 9.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 1-bromo-2-(phenylmethoxy)naphthalene | BrC1=C(C=CC2=CC=CC=C12)OCC1=CC=CC=C1 | C17H13BrO
